US04439418
To a stirred suspension of 31 gm (0.23 mol) of aluminum trichloride in 230 ml chlorobenzene, 18 gm (0.12 mol) of fumaryl chloride were added slowly in drops at room temperature. The mixture was stirred for 1.3 hours at room temperature and for another 1.3 hours at 45° C. After introduction into ice-water and acidification with concentrated HCl, the mixture was extracted with 1.5 liters of methylene chloride. After evaporation of the methylene chloride, the residue was washed with about 200 ml of ethanol and recrystallized from acetone. 27 gm (75% of the theory) of trans-1,2-bis-(p-chlorobenzoyl)-ethene were obtained with a melting point of 174°-176° C.

reactant | aluminum trichloride | 0.23 mol, 31 gm | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | fumaryl chloride | 0.12 mol, 18 gm | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
reactant | chlorobenzene | 230 ml | ClC1=CC=CC=C1 | C6H5Cl
product | trans-1,2-bis-(p-chlorobenzoyl)-ethene | ClC1=CC=C(C(=O)\C=C\C(C2=CC=C(C=C2)Cl)=O)C=C1 | C16H10Cl2O2
